US04666931
2-Acetyl-7-methoxybenzofuran (5 g) (0.0263 mole) was added to chlorosulfonic acid (18.4 g) (0.158 mole) at -15° C. in portionwise (each 0.5 g) for 30 min. After stirring the reaction mixture at -10° to -5° C. for 1 hour, the resultant was gradually added dropwise to ice. The solution was extracted with ethyl acetate, washed with water and dried, followed by distilling away ethyl acetate under reduced pressure to give 5.8 g of crude 2-acetyl-4-chlorosulfonyl-7-methoxybenzofuran.

reactant | 2-Acetyl-7-methoxybenzofuran | 0.0263 mole, 5 g | C(C)(=O)C=1OC2=C(C1)C=CC=C2OC | C11H10O3
reactant | chlorosulfonic acid | 0.158 mole, 18.4 g | ClS(=O)(=O)O | ClHO3S
product | 2-acetyl-4-chlorosulfonyl-7-methoxybenzofuran | 5.8 g, Yield: 77% | C(C)(=O)C=1OC2=C(C1)C(=CC=C2OC)S(=O)(=O)Cl | C11H9ClO5S
